US03971819
Ethyl 3-benzylamino-5-sulphamyl-4-(β,β, β-trifluoroethoxy)-benzoate
A mixture of 3-amino-5-sulphamyl-4-(β, β, β-trifluoroethoxy)-benzoic acid (0.6 g), benzyl bromide (1.2 g), and dry ethanol (8 ml) was refluxed for 5 hours. After cooling, the precipitated ethyl 3-benzylamino-5-sulphamyl-4-(β, β, β-trifluoroethoxy)-benzoate was collected by suction and recrystallized from dry ethanol. After drying, the compound had a melting point of 163-165°C.

reactant | 3-amino-5-sulphamyl-4-(β, β, β-trifluoroethoxy)-benzoic acid | 0.6 g | NC=1C=C(C(=O)O)C=C(C1OCC(F)(F)F)S(N)(=O)=O | C9H9F3N2O5S
reactant | benzyl bromide | 1.2 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethanol | 8 ml | C(C)O | C2H6O
product | Ethyl 3-benzylamino-5-sulphamyl-4-(β,β, β-trifluoroethoxy)-benzoate | C(C1=CC=CC=C1)NC=1C=C(C(=O)OCC)C=C(C1OCC(F)(F)F)S(N)(=O)=O | C18H19F3N2O5S
